US04780477
By using 5-bromoisatin and 2-diisopropylaminoethyl chloride hydrochloride, a method analogous to that described in Reference Example 7 was carried out to obtain 5-bromo-1-(2-diisopropylaminoethyl)isatin having a melting point of 91°-93° C. (yield: 82.9%).

reactant | 5-bromoisatin | BrC=1C=C2C(C(NC2=CC1)=O)=O | C8H4BrNO2
reactant | 2-diisopropylaminoethyl chloride hydrochloride | Cl.C(C)(C)N(CCCl)C(C)C
product | 5-bromo-1-(2-diisopropylaminoethyl)isatin | yield: 82.9% | BrC=1C=C2C(C(N(C2=CC1)CCN(C(C)C)C(C)C)=O)=O | C16H21BrN2O2
